US07816542B2
A solution of 2-hydroxy-4-iodo-benzoic acid (4.0 g, 0.015 mol) in THF (25 ml) and MeOH (25 ml) is treated by the dropwise addition of (trimethylsilyl)-diazomethane (2.0M in Et2O, 15 ml) and stirred at room temperature for 2.5 hours. Volatiles are removed in vacuo and the crude residue diluted into EtOAc. The organic phase is sequentially washed with saturated aqueous NaHCO3 (3×), saturated aqueous NaCl (1×), and H2O (1×). The organic phase is dried over MgSO4, filtered, and concentrated. The crude product is purified with silica gel column chromatography (0-80% ethyl acetate in hexanes gradient) to afford 2-hydroxy-4-iodo-benzoic acid methyl ester: ESMS m/z 279.0 (M+H+).

reactant | 2-hydroxy-4-iodo-benzoic acid | 0.015 mol, 4.0 g | OC1=C(C(=O)O)C=CC(=C1)I | C7H5IO3
reactant | (trimethylsilyl)-diazomethane | 2.0M, 15 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | MeOH | 25 ml | CO | CH4O
product | 2-hydroxy-4-iodo-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)I)O)=O | C8H7IO3
